US04259489
Diaminomaleonitrile (5.40 g; 0.05 mole) and 7.50 g (0.05 mole) of benzoylformic acid were put into 50 ml of a 2 N aqueous solution of hydrochloric acid. The mixture was stirred at 20° to 30° C. for 30 minutes, and further stirred at 70° to 80° C. for 2 hours. The mixture was then cooled to room temperature. The precipitate formed was collected by filtration, washed thrice with 40 ml of water, and dried under reduced pressure to afford 10.0 g (yield 90%) of 2,3-dicyano-5-hydroxy-6-phenylpyrazine.

reactant | Diaminomaleonitrile | 0.05 mole, 5.40 g | N/C(=C(/C#N)\N)/C#N | C4H4N4
reactant | benzoylformic acid | 0.05 mole, 7.50 g | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
reactant | hydrochloric acid | Cl | ClH
product | 2,3-dicyano-5-hydroxy-6-phenylpyrazine | 10.0 g, yield 90% | C(#N)C1=NC(=C(N=C1C#N)O)C1=CC=CC=C1 | C12H6N4O
